US08183246B2
5-Bromo-6-phenylfuro[2,3-d]pyrimidine-4-amine
Heat 80 g (378.7 mmol) 6-phenylfuro[2,3-d]pyrimidine-4-amine in 770 ml carbon tetrachloride to 60° C. Add 84.3 g (473.4 mmol) N-bromosuccinimide, and stir the mixture overnight under reflux. After cooling, filter, mix the filter cake successively with dichloromethane and acetonitrile, and filter again. Then dry the filter cake under vacuum. 86 g of the target product (78.2% of theor.) is obtained.

reactant | 6-phenylfuro[2,3-d]pyrimidine-4-amine | 378.7 mmol, 80 g | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2N)O1 | C12H9N3O
reactant | N-bromosuccinimide | 473.4 mmol, 84.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 770 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-6-phenylfuro[2,3-d]pyrimidine-4-amine | 86 g, 78.2% | BrC1=C(OC=2N=CN=C(C21)N)C2=CC=CC=C2 | C12H8BrN3O
